### PR TITLE
[Merged by Bors] - feat(RingTheory/MonoidAlgebra): `toAdditive` as a `BialgEquiv`

### PR DESCRIPTION
**Pull request by YaelDillies**
Also add a few missing lemmas about the less bundled versions, make variable names follow the local file convention and explicit a missing argument. Also unprotected `toMultiplicative` and `toAdditive` because I do not see any reason why these should have been protected in the first place.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 1]
```diff
@@ -676,18 +676,36 @@ end AddMonoidAlgebra
...
+variable [AddMonoid M]
+
+variable (R A M) in
 /-- The algebra equivalence between `AddMonoidAlgebra` and `MonoidAlgebra` in terms of
 `Multiplicative`. -/
-def AddMonoidAlgebra.toMultiplicativeAlgEquiv [AddMonoid M] :
-    AddMonoidAlgebra A M ≃ₐ[R] MonoidAlgebra A (Multiplicative M) where
-  toRingEquiv := AddMonoidAlgebra.toMultiplicative A M
-  commutes' r := by simp [AddMonoidAlgebra.toMultiplicative]
+@[simps!]
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean:693]: have you checked what `@[simps!]` generates? Are you sure you want them?

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 2]
```diff
@@ -676,18 +676,36 @@ end AddMonoidAlgebra
...
+variable [Monoid M]
+
+variable (R A M) in
 /-- The algebra equivalence between `MonoidAlgebra` and `AddMonoidAlgebra` in terms of
 `Additive`. -/
-def MonoidAlgebra.toAdditiveAlgEquiv [Monoid M] :
-    MonoidAlgebra A M ≃ₐ[R] AddMonoidAlgebra A (Additive M) where
-  toRingEquiv := MonoidAlgebra.toAdditive A M
-  commutes' r := by simp [MonoidAlgebra.toAdditive]
+@[simps!]
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean:710]: same here

File: Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean [hunk 3]
```diff
@@ -83,6 +83,20 @@ lemma mapDomainBialgHom_mapDomainBialgHom (f : N →* O) (g : M →* N) (x : R[M
...
+variable [CommSemiring R] [Semiring A] [Bialgebra R A] [AddMonoid M]
+
+variable (R A M) in
+/-- The bialgebra equivalence between `AddMonoidAlgebra` and `MonoidAlgebra` in terms of
+`Multiplicative`. -/
+def toMultiplicativeBialgEquiv : A[M] ≃ₐc[R] MonoidAlgebra A (Multiplicative M) :=
+  .ofAlgEquiv (toMultiplicativeAlgEquiv R A M) (by ext <;> simp) <| by
+    ext a
+    · simp [Algebra.TensorProduct.one_def]
+    · simp [← (Coalgebra.Repr.arbitrary R a).eq]
```
Comment (Whysoserioushah) [inline Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean:102]: can you provide some APIs for this definition? Thanks!

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean:693]: Yeah, they look fine

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/0d06d35965b4b26b715b00f8c95000002ce53785?reference=fd1d54bcac5caba4eff2ea3421c47d907333f515) for 0d06d35965b4b26b715b00f8c95000002ce53785 against fd1d54bcac5caba4eff2ea3421c47d907333f515 are in. No significant results found. @riccardobrasca

- ✅ `build//instructions`: **-18.1G** (**-0.01%**)

**Small changes (1🟥)**

- 🟥 `build/module/Mathlib.RingTheory.Bialgebra.MonoidAlgebra//instructions`: **+3.4G** (**+24.62%**) (reduced significance based on *//lines)

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 4]
```diff
@@ -486,12 +486,14 @@ end MonoidAlgebra
...
+variable [Semiring R] [Add M]
+
 set_option backward.isDefEq.respectTransparency false in
-variable (k G) in
+variable (R M) in
 /-- The equivalence between `AddMonoidAlgebra` and `MonoidAlgebra` in terms of
 `Multiplicative` -/
-protected def AddMonoidAlgebra.toMultiplicative [Semiring k] [Add G] :
-    AddMonoidAlgebra k G ≃+* MonoidAlgebra k (Multiplicative G) where
+def toMultiplicative : AddMonoidAlgebra R M ≃+* MonoidAlgebra R (Multiplicative M) where
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:497]: `simps`?

Comment (riccardobrasca) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:497]: Also, this was protected, not it's not, is this intended? Same for `toAdditive`.

File: Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean [hunk 5]
```diff
@@ -87,6 +87,38 @@ lemma mapDomainBialgHom_mapDomainBialgHom (f : N →* O) (g : M →* N) (x : R[M
...
 
+namespace AddMonoidAlgebra
+variable [CommSemiring R] [Semiring A] [Bialgebra R A] [AddMonoid M]
+
+variable (R A M) in
+/-- The bialgebra equivalence between `AddMonoidAlgebra` and `MonoidAlgebra` in terms of
+`Multiplicative`. -/
+-- TODO: Make `BialgEquiv.toCoalgEquiv` the simp normal form so that this can be simp
+@[simps! -isSimp]
+def toMultiplicativeBialgEquiv : A[M] ≃ₐc[R] MonoidAlgebra A (Multiplicative M) :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Bialgebra/MonoidAlgebra.lean:98]: Can you maybe add `toMultiplicativeBialgEquiv_single`?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:497]: I don't understand why it was protected in the first place. There was no reason to and the further bundlings were not protected

**Comment by YaelDillies** [comment]
bors merge
